US03953455
Bis[3-(dibutylamino)propyl]5,6-dihydro-6-oxophenanthridine-3,8-dicarboxylate dihydrochloride
To a solution of 20.4 g (0.03 mole) of bis[3-(dibutylamino)propyl]9-oxo-fluorene-2,7-dicarboxylate dihydrochloride and 13 ml of concentrated sulfuric acid contained in 150 ml of trifluoroacetic acid, which has been cooled to 0° C., is slowly added 2.6 g (0.04 mole) of sodium azide with stirring. Stirring is continued for 30 minutes whereupon most of the trifluoroacetic acid is removed in vacuo. Cracked ice is added and the residue is made alkaline with a 50% sodium hydroxide solution. The reaction mixture is extracted with methylene chloride, the extracts are combined, dried over magnesium sulfate, filtered and the filtrate treated with a slight excess of ethereal hydrogen chloride. The solution is concentrated to approximately 300 ml in vacuo, and approximately 500 ml of warm butanone is added. The mixture is permitted to cool slowly whereupon the desired bis[3-(dibutylamino)propyl]5,6-dihydro-6-oxophenanthridine-3,8-dicarboxylate crystallizes as the dihydrochloride salt. The product when recrystallized from a methylene chloride-ethyl acetate mixture has a m.p. 204.5°-6.5° C., and a N.E. of 349.4.

reactant | bis[3-(dibutylamino)propyl]9-oxo-fluorene-2,7-dicarboxylate dihydrochloride | 0.03 mole, 20.4 g | Cl.Cl.C(CCC)N(CCCOC(=O)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C(=O)OCCCN(CCCC)CCCC)=O)CCCC
reactant | sulfuric acid | 13 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium azide | 0.04 mole, 2.6 g | [N-]=[N+]=[N-].[Na+]
solvent | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Bis[3-(dibutylamino)propyl]5,6-dihydro-6-oxophenanthridine-3,8-dicarboxylate dihydrochloride | Cl.Cl.C(CCC)N(CCCOC(=O)C=1C=CC=2C3=CC=C(C=C3C(NC2C1)=O)C(=O)OCCCN(CCCC)CCCC)CCCC | InChI=1S/C37H55N3O5.2ClH/c1-5-9-19-39(20-10-6-2)23-13-25-44-36(42)29-15-17-31-32-18-16-30(28-34(32)38-35(41)33(31)27-29)37(43)45-26-14-24-40(21-11-7-3)22-12-8-4;;/h15-18,27-28H,5-14,19-26H2,1-4H3,(H,38,41);2*1H
